US07034039B2
4-Butoxy-7-fluoro-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylic acid (2.97 g, 8.5 mmol) was dissolved in tetrahydrofuran (30 ml) and oxalyl chloride (0.9 ml, 10.2 mmol) and N,N-dimethylformamide (2 drops) were added thereto. The mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in tetrahydrofuran (20 ml). The obtained solution was added dropwise to sodium tetrahydroborate (1.13 g, 30 mmol) in dimethoxyethane (20 ml) at 0° C. The obtained mixture was stirred at 0° C. for 1 h. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from tetrahydrofuran-diisopropyl ether to give 4-butoxy-7-fluoro-3-hydroxymethyl-2-neopentyl-1(2H)-isoquinolinone (2.52 g, 88.4%) as crystals.

reactant | 4-Butoxy-7-fluoro-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylic acid | 8.5 mmol, 2.97 g | C(CCC)OC1=C(N(C(C2=CC(=CC=C12)F)=O)CC(C)(C)C)C(=O)O | C19H24FNO4
reactant | oxalyl chloride | 10.2 mmol, 0.9 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium tetrahydroborate | 30 mmol, 1.13 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 4-butoxy-7-fluoro-3-hydroxymethyl-2-neopentyl-1(2H)-isoquinolinone | 2.52 g, 88.4% | C(CCC)OC1=C(N(C(C2=CC(=CC=C12)F)=O)CC(C)(C)C)CO | C19H26FNO3
